US09085517B2
benzyl (3,3-difluoroazetidin-1-yl)sulfonylcarbamate
To a stirred solution of N-(1-(N-((benzyloxy)carbonyl)sulfamoyl)pyridin-4(1H)-ylidene)-N-methylmethanaminium chloride (Preparation 21, 3.15 g, 8.49 mmol) in CH2Cl2 (15 mL) were added N,N,-diisopropylethylamine (2.19 g, 17.0 mmol) and 3,3-difluoroazetidine hydrochloride (1.10 g, 8.49 mmol). The mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure and the residue diluted with EtOAc (40 mL) and washed with water (40 mL). The aqueous washings were acidified with 2M aqueous solution of HCl and extracted with EtOAC (2×40 mL), the combined organic layers were dried over MgSO4 and concentrated to give the title compound as an amber oil (800 mg, 31%).

reactant | N-(1-(N-((benzyloxy)carbonyl)sulfamoyl)pyridin-4(1H)-ylidene)-N-methylmethanaminium chloride | 8.49 mmol, 3.15 g | [Cl-].C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)N1C=CC(C=C1)=[N+](C)C
reactant | N,N,-diisopropylethylamine | 17.0 mmol, 2.19 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3-difluoroazetidine hydrochloride | 8.49 mmol, 1.10 g | Cl.FC1(CNC1)F
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | benzyl (3,3-difluoroazetidin-1-yl)sulfonylcarbamate | 800 mg, 31% | FC1(CN(C1)S(=O)(=O)NC(OCC1=CC=CC=C1)=O)F | C11H12F2N2O4S
